US07795267B2
7-[2-(3,6-Dihydropyridin-1(2H)-ylmethyl)benzoyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
2-Formylbenzoic acid (0.15 g, 1.0 mmol) was dissolved in thionyl chloride (1 mL), one drop of pyridine was added thereto, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated, and the residue was dissolved in tetrahydrofuran (5 mL). This solution was added dropwise to a solution of triethylamine (0.19 mL, 1.4 mmol) and hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.68 mmol) in tetrahydrofuran (3 mL), and the mixture was stirred at room temperature for 24 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was sequentially washed with 1 N hydrochloric acid, an aqueous saturated sodium hydrogen carbonate solution, water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate). The fractions were collected and concentrated. The residue was dissolved in tetrahydrofuran (4 mL). 1,2,3,6-Tetrahydropyridine (0.08 mL, 0.88 mmol) and sodium triacetoxyborohydride (0.13 g, 0.61 mmol) were sequentially added thereto, and the mixture was stirred at room temperature for 25 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with amino silica gel column chromatography (ethyl acetate:hexane=2:98 to ethyl acetate:hexane=1:1) and silica gel column chromatography (ethyl acetate:hexane=1:1 to ethyl acetate), and then recrystallized from diisopropyl ether to obtain the title compound (68 mg, yield 14%).

reactant | 2-Formylbenzoic acid | 1.0 mmol, 0.15 g | C(=O)C1=C(C(=O)O)C=CC=C1 | C8H6O3
reactant | triethylamine | 1.4 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.68 mmol, 0.20 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 1,2,3,6-Tetrahydropyridine | 0.88 mmol, 0.08 mL | N1CCC=CC1 | C5H9N
reactant | sodium triacetoxyborohydride | 0.61 mmol, 0.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-[2-(3,6-Dihydropyridin-1(2H)-ylmethyl)benzoyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 68 mg, yield 14% | N1(CCC=CC1)CC1=C(C(=O)N2CC3N(CC2)C(OC3(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=CC=C1 | C31H31N3O3
